US07745663B2
To a solution of (E)-5-[(2-amino-ethoxyimino)-methyl]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide (8.14 mg, 0.02 mmol) described in Step C in a mixed solvent of dimethylformamide (1 ml) and methanol (5 ml) was added N-methoxydiacetamide (100 mg, 0.76 mmol), and the mixture was stirred at room temperature for 14 hours. After completion of the reaction, the solvent was evaporated under reduced pressure, and the resultant residue was purified with Mega Bond Elut silica gel (Varian, 5 g). (E)-5-[(2-Acetylamino-ethoxyimino)-methyl]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide (8.10 mg, 92% yield) was obtained as a pale yellow solid from fractions eluted with 6% methanol/methylene chloride.

reactant | (E)-5-[(2-amino-ethoxyimino)-methyl]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide | 0.02 mmol, 8.14 mg | NCCO\N=C\C=1C(=C(C(=C(C(=O)NOCCO)C1)NC1=C(C=C(C=C1)I)F)F)F | C18H18F3IN4O4
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | N-methoxydiacetamide | 0.76 mmol, 100 mg | CON(C(C)=O)C(=O)C | C5H9NO3
solvent | methanol | 5 ml | CO | CH4O
product | (E)-5-[(2-Acetylamino-ethoxyimino)-methyl]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide | 8.10 mg, 92% yield | C(C)(=O)NCCO\N=C\C=1C(=C(C(=C(C(=O)NOCCO)C1)NC1=C(C=C(C=C1)I)F)F)F | C20H20F3IN4O5
